US04061761
a. 3-tert.-Butylsulfamoyl-4-chlorobenzoic acid
To a mixture of 36.5 g (0.5 mol) of tert.-butylamine and 250 ml of ethanol were added 25.5 g (0.1 mol) of 4-chloro-3-chlorosulfonylbenzoic acid in small portions while stirring and cooling, the reaction temperature being maintained at about 30° C. After a dwelling time over night at room temperature, the solvent was distilled off, the residue was dissolved in about 200 ml of water, the pH was adjusted to 1 with concentrated HCl and the crystals were filtered off. Melting point: 250° C.

reactant | tert.-butylamine | 0.5 mol, 36.5 g | C(C)(C)(C)N | C4H11N
reactant | 4-chloro-3-chlorosulfonylbenzoic acid | 0.1 mol, 25.5 g | ClC1=C(C=C(C(=O)O)C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-tert.-Butylsulfamoyl-4-chlorobenzoic acid | C(C)(C)(C)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C11H14ClNO4S
